US08349880B2
Step J (5): Iodomethane (0.047 mL, 0.753 mmol) was added to a solution of 1-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)thiourea (207 mg, 0.717 mmol) in absolute ethanol (4 mL). The resulting mixture was heated at 60° C. for 16 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed in high vacuo to afford methyl 4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenylcarbamimidothioate hydroiodide (309 mg, 0.717 mmol, 100% yield). LC-MS (M+11)+ 303.1.

reactant | Iodomethane | 0.753 mmol, 0.047 mL | IC | CH3I
reactant | 1-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)thiourea | 0.717 mmol, 207 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1F)NC(=S)N)F | C10H7ClF2N4S
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | methyl 4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenylcarbamimidothioate hydroiodide | 0.717 mmol, 309 mg, 100% yield | I.ClC=1N=CN(C1)C1=C(C=C(C=C1F)NC(=N)SC)F | InChI=1S/C11H9ClF2N4S.HI/c1-19-11(15)17-6-2-7(13)10(8(14)3-6)18-4-9(12)16-5-18;/h2-5H,1H3,(H2,15,17);1H
